US06184225B2
7-Hydroxy-6-methoxy-4-phenoxyquinazoline (1.11 g, 4.2 mmol), (prepared as described for the starting material in Example 16), in DMF (1 7 ml) was added to a suspension of sodium hydride (184 mg of a 60% suspension in oil, 4.6 mmol) in DMF (3 ml). The mixture was stirred until evolution of gas ceased, and then 2-cyclopentyloxyethyl 4-toluenesulphonate (1.25 g, 4.45mmol) in DMF (3 ml) was added dropwise. The mixture was stirred at ambient temperature for 30 minutes, then heated at 60° C. for 2 hours, and then at 80° C. for a further 4 hours before being allowed to cool. The mixture was poured onto ice and extracted with methylene chloride. The combined extracts were washed with brine, passed through phase separating paper and the solvent removed by evaporation. The residue was purified by column chromatography eluting with ethyl acetate. The purified product was triturated with isohexane to give 7-(2-cyclopentyloxyethoxy)-6-methoxy-4-phenoxyquinazoline (480 mg, 28%).

reactant | 7-Hydroxy-6-methoxy-4-phenoxyquinazoline | 4.2 mmol, 1.11 g | OC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C15H12N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-cyclopentyloxyethyl 4-toluenesulphonate | 4.45mmol, 1.25 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOC1CCCC1)C | C14H20O4S
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 7-(2-cyclopentyloxyethoxy)-6-methoxy-4-phenoxyquinazoline | 480 mg, 28% | C1(CCCC1)OCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C22H24N2O4
